US07479502B2
A suspension of copper cyanide (7 g) and 3-chloro-2-iodo-5-nitro-pyridine (7 g) in acetonitrile (200 mL) was heated to 80° C. within 1 hour and stirred at 80° C. for 5 hours. The solvent was evaporated and the residue was filtered in ethyl acetate over silicon dioxide gave 3-chloro-2-cyano-5-nitro-pyridine (4.26 g).

reactant | copper cyanide | 7 g | [Cu](C#N)C#N
reactant | 3-chloro-2-iodo-5-nitro-pyridine | 7 g | ClC=1C(=NC=C(C1)[N+](=O)[O-])I | C5H2ClIN2O2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 3-chloro-2-cyano-5-nitro-pyridine | 4.26 g | ClC=1C(=NC=C(C1)[N+](=O)[O-])C#N | C6H2ClN3O2
